### PR TITLE
[Merged by Bors] - feat(Geometry/Convex/Cone): define and characterize simplicial pointed cones

### PR DESCRIPTION
**Pull request by bjornsolheim**
Define simplicial pointed cones. 
Prove three lemmas about simplicial and generating simplicial cones.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 1]
```diff
@@ -0,0 +1,117 @@
...
+
+* `PointedCone.span_isSimplicial`: The conic span of a linearly independent finite set is
+  simplicial.
+* `PointedCone.IsSimplicial.toBasis`: A simplicial generating cone determines a basis.
+
+## Implementation notes
+
+This is a minimal API containing only what is needed to prove basic properties of
+cone tensor products involving simplicial and generating cones. Additional lemmas
+(finite generation properties,behavior under maps, simplicial cones in specific cases)
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]:
```suggestion
(finite generation properties, behavior under maps, simplicial cones in specific cases)
```

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 2]
```diff
@@ -0,0 +1,117 @@
...
+def IsSimplicial : Prop :=
+  ∃ s : Finset M, LinearIndependent R ((↑) : s → M) ∧ span R (s : Set M) = C
+
+/-- The conic span of a finite linearly independent set is simplicial. -/
+theorem span_isSimplicial (s : Finset M) (hli : LinearIndependent R ((↑) : s → M)) :
+    (span R (s : Set M)).IsSimplicial :=
+  ⟨s, hli, rfl⟩
+
+/-- Abbreviation: A pointed cone is generating iff its underlying convex cone is generating. -/
+abbrev IsGenerating : Prop := (C : ConvexCone R M).IsGenerating
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]: This should go in the file where `ConvexCone` is defined.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 3]
```diff
@@ -0,0 +1,117 @@
...
+
+variable (C : PointedCone R M)
+
+/-- A pointed cone is simplicial if it equals the conic span of a finite set that is
+linearly independent over `R`. -/
+def IsSimplicial : Prop :=
+  ∃ s : Finset M, LinearIndependent R ((↑) : s → M) ∧ span R (s : Set M) = C
+
+/-- The conic span of a finite linearly independent set is simplicial. -/
+theorem span_isSimplicial (s : Finset M) (hli : LinearIndependent R ((↑) : s → M)) :
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]:
```suggestion
theorem IsSimplicial.span (s : Finset M) (hli : LinearIndependent R ((↑) : s → M)) :
```

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 4]
```diff
@@ -0,0 +1,117 @@
...
+    (span R (s : Set M)).IsSimplicial :=
+  ⟨s, hli, rfl⟩
+
+/-- Abbreviation: A pointed cone is generating iff its underlying convex cone is generating. -/
+abbrev IsGenerating : Prop := (C : ConvexCone R M).IsGenerating
+
+variable {C}
+
+/-- The generator finset of a simplicial cone, extracted from the existential. -/
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]:
```
/-- The generating set of a simplicial cone. -/
```
or
```
/-- The generators of a simplicial cone. -/
```
is more useful, I think

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 5]
```diff
@@ -0,0 +1,117 @@
...
+/-- The generators of a simplicial cone are linearly independent. -/
+lemma IsSimplicial.linearIndependent_generators (h : C.IsSimplicial) :
+    LinearIndependent R ((↑) : h.generators → M) :=
+  h.choose_spec.1
+
+/-- A simplicial cone equals the conic span of its generators. -/
+lemma IsSimplicial.span_generators (h : C.IsSimplicial) : span R (h.generators : Set M) = C :=
+  h.choose_spec.2
+
+/-- If a simplicial cone is generating, every element lies in the linear span of its generators. -/
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]:
```suggestion
/-- If a simplicial cone is generating, then its generators linearly span the module. -/
```

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 6]
```diff
@@ -0,0 +1,117 @@
...
+lemma IsSimplicial.top_le_span_generators (h_simp : C.IsSimplicial) (h_gen : C.IsGenerating) :
+    ⊤ ≤ Submodule.span R (h_simp.generators : Set M) := by
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]:
```suggestion
    Submodule.span R (h_simp.generators : Set M) = ⊤ := by
```
You should always use this form in conclusions, and the other form only in assumptions. See https://leanprover-community.github.io/contribute/style.html#normal-forms

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 7]
```diff
@@ -0,0 +1,117 @@
...
+  simp only [← Submodule.span_span_of_tower R≥0 R (h_simp.generators : Set M),
+    h_simp.span_generators]
+  exact h_gen.symm.le
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]:
```suggestion
  simpa [← Submodule.span_span_of_tower R≥0 R (h_simp.generators : Set M),
    h_simp.span_generators] using h_gen
```
golf (this works for either form of the statement)

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 8]
```diff
@@ -0,0 +1,117 @@
...
+
+/-- The generators of a simplicial generating cone also form a basis for the module. -/
+noncomputable def IsSimplicial.toBasis (h_simp : C.IsSimplicial) (h_gen : C.IsGenerating) :
+    Module.Basis h_simp.generators R M :=
+  Module.Basis.mk h_simp.linearIndependent_generators (by
+    rw [Subtype.range_coe_subtype, Finset.setOf_mem]
+    exact h_simp.top_le_span_generators h_gen)
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]:
```suggestion
  Module.Basis.mk h_simp.linearIndependent_generators <| by
    simpa using h_simp.span_generators_eq_top h_gen
```
golf; you can use `<|` to avoid trailing brackets

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 9]
```diff
@@ -0,0 +1,117 @@
...
+
+/-- The basis `toBasis` acts as the natural inclusion map: evaluating it at each generator
+index yields the generator itself. -/
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]: This documentation does not really reflect the theorem, which is in any case too trivial to need documentation. Did you generate this documentation with the aid of generative AI?

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 10]
```diff
@@ -0,0 +1,117 @@
...
+lemma IsSimplicial.toBasis_range (h_simp : C.IsSimplicial) (h_gen : C.IsGenerating) :
+    Set.range (h_simp.toBasis h_gen) = h_simp.generators := by
+  simp only [toBasis, Module.Basis.coe_mk, Subtype.range_coe_subtype, Finset.setOf_mem]
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]:
```suggestion
    Set.range (h_simp.toBasis h_gen) = h_simp.generators := by simp [toBasis]
```
Don't squeeze terminal `simp` - it's worse for maintainability.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 11]
```diff
@@ -0,0 +1,117 @@
...
+
+/-- The generators of a simplicial generating cone `C` form a module basis, and each basis vector
+lies inside the cone `C`. -/
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]:
```suggestion
/-- Each basis vector lies inside the cone `C`. -/
```
Again, the documentation is somewhat misleading

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 12]
```diff
@@ -0,0 +1,117 @@
...
+lemma IsSimplicial.toBasis_mem (h_simp : C.IsSimplicial) (h_gen : C.IsGenerating)
+    (i : h_simp.generators) : (h_simp.toBasis h_gen) i ∈ C := by
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]: I'm a bit puzzled by this statement. I think you should instead prove that `h_simp.toBasis h_gen i = i` (see above) and that `i ∈ C`.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 13]
```diff
@@ -0,0 +1,117 @@
...
+noncomputable def IsSimplicial.toBasis (h_simp : C.IsSimplicial) (h_gen : C.IsGenerating) :
+    Module.Basis h_simp.generators R M :=
+  Module.Basis.mk h_simp.linearIndependent_generators (by
+    rw [Subtype.range_coe_subtype, Finset.setOf_mem]
+    exact h_simp.top_le_span_generators h_gen)
+
+/-- The basis `toBasis` acts as the natural inclusion map: evaluating it at each generator
+index yields the generator itself. -/
+lemma IsSimplicial.toBasis_range (h_simp : C.IsSimplicial) (h_gen : C.IsGenerating) :
+    Set.range (h_simp.toBasis h_gen) = h_simp.generators := by
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]: We can prove the stronger lemma

```
@[simp]
lemma IsSimplicial.toBasis_apply (h_simp : C.IsSimplicial) (h_gen : C.IsGenerating)
    (i : h_simp.generators) : h_simp.toBasis h_gen i = i := by simp [toBasis]
```

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 14]
```diff
@@ -0,0 +1,117 @@
...
+
+-/
+
+@[expose] public section
+
+variable {R M : Type*}
+variable [Semiring R] [PartialOrder R] [IsOrderedRing R]
+variable [AddCommMonoid M] [Module R M]
+
+local notation3 "R≥0" => {c : R // 0 ≤ c}
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]: This notation line appears already in several files - could you consider refactoring it into scoped notation in the `PointedCone` namespace?

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 15]
```diff
@@ -0,0 +1,117 @@
...
+  ∃ s : Finset M, LinearIndependent R ((↑) : s → M) ∧ span R (s : Set M) = C
+
+/-- The conic span of a finite linearly independent set is simplicial. -/
+theorem span_isSimplicial (s : Finset M) (hli : LinearIndependent R ((↑) : s → M)) :
+    (span R (s : Set M)).IsSimplicial :=
+  ⟨s, hli, rfl⟩
+
+/-- Abbreviation: A pointed cone is generating iff its underlying convex cone is generating. -/
+abbrev IsGenerating : Prop := (C : ConvexCone R M).IsGenerating
+
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean:51]:
```suggestion

namespace IsSimplicial
```
You repeat the namespace in every lemma.

**Review by artie2000 — CHANGES_REQUESTED** [review]

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 1 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Thanks. I have removed this.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 2 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: I have moved it to PointedCone. (Pointed is downstream of Convex, so moving it to Convex there would be circularity). Alternatively, I can do without this abbreviation. But it does make things look more readable than using (C : ConvexCone R M).IsGenerating in the assumptions. But, if the use of coercion is preferable that's fine too.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 3 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Thanks. I have renamed it.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 4 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Thanks. Implemented

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 5 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: This version was removed.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 11 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Thanks. Simplified lemma structure and texts.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 12 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Thanks. Implemented

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 13 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Implemented

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 14 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: I am unsure what to do here. This is not proper parameterized notation (just a text macro). One could create proper notation but it might require coordination with various NN notation that already exists. 

The following is probably too simplistic:

namespace NonnegNotation

variable (R : Type*) [Zero R] [LE R]
/-- The subtype of nonnegative elements. -/
abbrev NN := {c : R // 0 ≤ c}

@[inherit_doc NN] scoped postfix:max "≥0" => NN --usage `X≥0` (X is a parameter)

end NonnegNotation

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 15 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean:51]: Thanks. Implemented

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 6 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Implemented.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 7 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Thanks. Implemented

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 8 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Nice. Implemented

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 9 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Removed.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 10 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Thanks. Implemented

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 14 above)
Comment (artie2000) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: hmm yeah not sure what to do either but the current approach doesn't scale
I suppose we can leave it for a future PR

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 16]
```diff
@@ -0,0 +1,105 @@
...
+lemma generator_mem (h : C.IsSimplicial) (i : h.generators) : (i : M) ∈ C :=
+  (h.span_generators ▸ subset_span) i.prop
+
+/-- The generators of a simplicial generating cone linearly span the module. -/
+lemma span_generators_eq_top (h_simp : C.IsSimplicial) (h_gen : C.IsGenerating) :
+    Submodule.span R (h_simp.generators : Set M) = ⊤ := by
+  simpa only [eq_top_iff, ← Submodule.span_span_of_tower R≥0 R (h_simp.generators : Set M),
+    h_simp.span_generators] using h_gen.symm.le
+
+/-- The generators of a simplicial generating cone is a basis for the module. -/
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]:
```suggestion
/-- The generators of a simplicial generating cone form a basis for the module. -/
```

File: Mathlib/Geometry/Convex/Cone/Pointed.lean [hunk 17]
```diff
@@ -236,4 +236,14 @@ lemma salient_iff_inter_neg_eq_singleton (C : PointedCone R E) :
...
 end Salient
+
+section Generating
+
+variable [Semiring R] [PartialOrder R] [IsOrderedRing R] [AddCommMonoid E] [Module R E]
+
+/-- Abbreviation: A pointed cone is generating iff its underlying convex cone is generating. -/
+abbrev IsGenerating (C : PointedCone R E) : Prop := (C : ConvexCone R E).IsGenerating
+
+end Generating
```
Comment (artie2000) [inline Mathlib/Geometry/Convex/Cone/Pointed.lean]: Am unsure whether this abbrev is an improvement over using the coercion everywhere (the real answer is to remove `ConvexCone` but that's out of scope). I'll defer to more experienced reviewers on this.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 16 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Better. Thanks. Implemented.

File: Mathlib/Geometry/Convex/Cone/Pointed.lean (hunk 17 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Pointed.lean]: I guess the coercion would be the safe conservative approach.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 14 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Agreed. This local stuff is nonoptimal. Let's revisit when a better approach is found.

File: Mathlib/Geometry/Convex/Cone/Pointed.lean (hunk 17 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Pointed.lean]: I have removed the abbreviation and used the coercion directly instead.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 18]
```diff
@@ -0,0 +1,112 @@
...
+
+/-- The conic span of a finite linearly independent set is simplicial. -/
+protected theorem span (s : Finset M) (hli : LinearIndependent R ((↑) : s → M)) :
+    (PointedCone.span R (s : Set M)).IsSimplicial :=
+  ⟨s, hli, rfl⟩
+
+variable {C}
+
+/-- The generators of a simplicial cone. -/
+noncomputable def generators (h : C.IsSimplicial) : Finset M := h.choose
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Do you need the set of generators in practice?

Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Thanks for looking at this. We can do without giving a definition of the extraction from the existential quantifier, and just use .choose inline whenever it is needed. I have uploaded a version which illustrates this. Let me know if you had something different in mind.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 19]
```diff
@@ -0,0 +1,106 @@
...
+local notation3 "R≥0" => {c : R // 0 ≤ c}
+
+namespace PointedCone
+
+variable (C : PointedCone R M)
+
+/-- A pointed cone is simplicial if it equals the conic span of a finite set that is
+linearly independent over `R`. -/
+def IsSimplicial : Prop :=
+  ∃ s : Finset M, LinearIndependent R ((↑) : s → M) ∧ span R (s : Set M) = C
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Can you use `LinearIndepOn` instead? Can you use `Set.Finite` instead?

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 20]
```diff
@@ -0,0 +1,106 @@
...
+
+/-- The conic span of a finite linearly independent set is simplicial. -/
+protected theorem span (s : Finset M) (hli : LinearIndependent R ((↑) : s → M)) :
+    (PointedCone.span R (s : Set M)).IsSimplicial := ⟨s, hli, rfl⟩
+
+variable {C}
+
+/-- The generators of a simplicial cone are linearly independent. -/
+lemma linearIndependent_generators (h : C.IsSimplicial) :
+    LinearIndependent R ((↑) : h.choose → M) :=
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]: What are you going to use this lemma for?

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 21]
```diff
@@ -0,0 +1,106 @@
...
+
+/-- The generators of a simplicial generating cone linearly span the module. -/
+lemma span_generators_eq_top (h_simp : C.IsSimplicial) (h_gen : (C : ConvexCone R M).IsGenerating) :
+    Submodule.span R (h_simp.choose : Set M) = ⊤ := by
+  simpa only [eq_top_iff, ← Submodule.span_span_of_tower R≥0 R (h_simp.choose : Set M),
+    h_simp.span_generators] using h_gen.symm.le
+
+/-- The generators of a simplicial generating cone form a basis of the module. -/
+noncomputable def toBasis (h_simp : C.IsSimplicial) (h_gen : (C : ConvexCone R M).IsGenerating) :
+    Module.Basis h_simp.choose R M :=
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]: What are you going to use this for?

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 19 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Thanks. Better. Implemented

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 20 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: I have removed all named extractions. One can just extract as needed.

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 21 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: toBasis and toBasis_mem is used to get a basis to expand a tensor product using this basis to prove cone membership of the components. This is in the PR #34848. Beyond that the extractions are now done inline.

**Comment by bjornsolheim** [comment]
-awaiting-author

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 22]
```diff
@@ -0,0 +1,84 @@
...
+namespace IsSimplicial
+
+/-- The conic span of a finite linearly independent set is simplicial. -/
+protected theorem span {s : Set M} (hs : s.Finite) (hli : LinearIndepOn R id s) :
+    (PointedCone.span R s).IsSimplicial := ⟨s, hs, hli, rfl⟩
+
+variable {C}
+
+/-- The generators of a simplicial generating cone form a basis of the module. -/
+noncomputable def toBasis (h : C.IsSimplicial) (hgen : (C : ConvexCone R M).IsGenerating) :
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]:
```suggestion
noncomputable def toBasis (h : C.IsSimplicial) (hgen : Submodule.span R C = \top) :
```

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean [hunk 23]
```diff
@@ -0,0 +1,84 @@
...
+    Module.Basis h.choose R M :=
+  Module.Basis.mk h.choose_spec.2.1 <| by
+    simpa using (by simpa only [eq_top_iff, ← Submodule.span_span_of_tower R≥0 R h.choose,
+      h.choose_spec.2.2] using hgen.symm.le : Submodule.span R h.choose = ⊤).ge
```
Comment (YaelDillies) [inline Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Sorry, but I don't get the point here. This is a repackaging of the statement that a linearly independent spanning family of vectors is a basis

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 22 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Thanks. Implemented (downstream). Is the definition of IsGenerating unnecessary? Should I just refer to generating as span_eq_top (or something to that effect) in theorems that use this as an assumption?

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 23 above)
Comment (bjornsolheim) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Thanks. Instead of having a lemma like the one given below, this type of code should just be inline in a proof (it is a proof-component not interesting/useful as a lemma)?

lemma span_generators_eq_top (h : C.IsSimplicial) (hgen : Submodule.span R (C : Set M) = ⊤) :
    Submodule.span R h.choose = ⊤ := by
  simpa only [eq_top_iff, ← Submodule.span_span_of_tower R≥0 R h.choose, h.choose_spec.2.2]
    using hgen.ge

Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Yes, exactly

File: Mathlib/Geometry/Convex/Cone/Simplicial.lean (hunk 22 above)
Comment (YaelDillies) [reply Mathlib/Geometry/Convex/Cone/Simplicial.lean]: Yes, I don't understand why we have `IsGenerating`, and why it's a predicate on `ConvexCone` (it could be a predicate on `Set` instead)

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
